US07625893B2
l) Triisopropyl-((S)-3-methoxy-2-methylpropoxy)silane
3.09 g of sodium hydride (60% dispersion in oil) are added to a solution of 9.55 g of (S)-2-methyl-3-triisopropylsilanyloxypropan-1-ol [256643-28-4] and 7.3 ml of methyl iodide in 70 ml of N,N-dimethylformamide at 0° C. After 60 hours at room temperature, the reaction mixture is diluted with tert-butyl methyl ether and washed successively with water and brine, dried with sodium sulfate and evaporated. The residue is purified by flash chromatography (SiO2 60F) to afford the title as a yellow oil. Rf=0.51 (EtOAc-heptane 1:10).

reactant | sodium hydride | 3.09 g | [H-].[Na+]
reactant | (S)-2-methyl-3-triisopropylsilanyloxypropan-1-ol | 9.55 g | C[C@@H](CO)CO[Si](C(C)C)(C(C)C)C(C)C | C13H30O2Si
reactant | methyl iodide | 7.3 ml | CI | CH3I
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | Triisopropyl-((S)-3-methoxy-2-methylpropoxy)silane | C(C)(C)[Si](OC[C@H](COC)C)(C(C)C)C(C)C | C14H32O2Si
